US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (2.3 mL) was added to a solution mixture of tert-butyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate (0.28 g) in methanol (2 mL) and dioxane (4 mL), followed by stirring at room temperature for 6 hours. The reaction mixture was adjusted to a pH of 5.5 with a 10% aqueous solution of citric acid, and chloroform was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Trifluoroacetic acid (4 mL) was added to the obtained residue, followed by stirring at room temperature for 20 minutes. The solvent was evaporated under reduced pressure, and toluene was added to the residue. The solvent was evaporated under reduced pressure, and a 4 mol/L hydrogen chloride-dioxane solution (5 mL) was added to the residue, followed by stirring at room temperature for 5 minutes. The solvent was evaporated under reduced pressure, and diethyl ether was added to the residue. The solid substance was collected by filtration to obtain 0.18 g of 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-(2-(methylamino)phenyl)benzoic acid dihydrochloride as a light yellow solid.

reactant | sodium hydroxide | 2.3 mL | [OH-].[Na+]
reactant | tert-butyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate | 0.28 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)N(C)C(=O)OC(C)(C)C)C=C(C=C1)C=1C=NC=CC1 | C37H39N3O7
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-(2-(methylamino)phenyl)benzoic acid dihydrochloride | 0.18 g | Cl.Cl.OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=C(C=CC=C2)NC)C=C(C=C1)C=1C=NC=CC1 | InChI=1S/C26H21N3O4.2ClH/c1-27-22-7-3-2-6-19(22)17-8-10-20(26(32)33)23(14-17)29-25(31)21-13-16(9-11-24(21)30)18-5-4-12-28-15-18;;/h2-15,27,30H,1H3,(H,29,31)(H,32,33);2*1H
